US20010007873A1
EXAMPLE 114 6-[4-(ALLYLOXY)-2-CYCLOBUTYL-PHENYL]-PYRIDIN-2YLAMINE
Prepared as in Example 31 using 4-(6-amino-pyridin-2-yl)-3-cyclobutyl-phenol and allyl chloride, in 92.7% yield.

reactant | 4-(6-amino-pyridin-2-yl)-3-cyclobutyl-phenol | NC1=CC=CC(=N1)C1=C(C=C(C=C1)O)C1CCC1 | C15H16N2O
reactant | allyl chloride | C(C=C)Cl | C3H5Cl
product | 6-[4-(ALLYLOXY)-2-CYCLOBUTYL-PHENYL]-PYRIDIN-2YLAMINE | 92.7% yield | C(C=C)OC1=CC(=C(C=C1)C1=CC=CC(=N1)N)C1CCC1 | C18H20N2O
